US05532241
Analogously to Example 5, reaction of 3.2 g of 3-(2-aminoethyl)-5-methoxyindole with 1.3 equivalents of 6-[N,N-bis(2-chloroethyl)amino]chroman [obtainable by reaction of 2-chloroacetyl chloride with 6-aminochroman and subsequent reduction with diborane] gives 1-[2-(5-methoxyindol-3-yl)ethyl]-4-(chroman-6-yl)piperazine.

reactant | 3-(2-aminoethyl)-5-methoxyindole | 3.2 g | NCCC1=CNC2=CC=C(C=C12)OC | C11H14N2O
reactant | 6-[N,N-bis(2-chloroethyl)amino]chroman | 1.3 equivalents | ClCCN(CCCl)C=1C=C2CCCOC2=CC1 | C13H17Cl2NO
product | 1-[2-(5-methoxyindol-3-yl)ethyl]-4-(chroman-6-yl)piperazine | COC=1C=C2C(=CNC2=CC1)CCN1CCN(CC1)C=1C=C2CCCOC2=CC1 | C24H29N3O2
